US07151109B2
Preparation of 3-nitropyrazolo[1,5-a]pyridine
To a solution of pyrazolo[1,5-a]pyridine (2.36 g, 20.0 mmol) (Lober, S. et al J. Med. Chem. 2001, 44, 2691) in concentrated sulfuric acid (20.0 mL) was added the freshly prepared solution of ammonium nitrate (1.84 g, 23.0 mmol) in concentrated sulfuric acid (25.0 mL) dropwise at −5° C. The resulting mixture was stirred at 0° C. for 2 h and added dropwise to a solution of 4 N sodium hydroxide (200 mL) at 0° C. followed by the addition of sodium bicarbonate (60.0 g). Water and ether were added and separated. The aqueous solution was extracted with dichloromethane (2×). The combined organic solution was dried (MgSO4) and filtered. The filtrate was concentrated in vacuo to dryness to give 2.49 g (76%) of beige solid as the title compound: mp 179–182° C. (CH2Cl2/hexanes); 1H NMR (400 MHz, CDCl3) δ 8.68 (s, 1H), 8.63 (dd, J=2.0, 6.9 Hz, 1H), 8.41 (dd, J=2.3, 8.9 Hz, 1H), 7.74 (dd, J=7.0, 8.9 Hz, 1H), 7.21 (dd, J=7.0, 7.0 Hz, 1H); IR (diffuse reflectance) 2480, 2465, 2417, 2392, 2350, 1636, 1512, 1479, 1464, 1408, 1288, 1252, 1194, 882, 773 cm−1; MS (EI) m/z 163 (M+); HRMS (FAB) calcd for C7H5N3O2+H 164.0460. found 164.0459; Anal. Calcd for C7H5N3O2: C, 51.54; H, 3.09; N, 25.76. Found: C, 51.42; H, 2.95; N, 25.71.

reactant | pyrazolo[1,5-a]pyridine | 20.0 mmol, 2.36 g | N1=CC=C2N1C=CC=C2 | C7H6N2
reactant | ammonium nitrate | 23.0 mmol, 1.84 g | [N+](=O)([O-])[O-].[NH4+]
reactant | sodium hydroxide | 4 N, 200 mL | [OH-].[Na+]
reactant | sodium bicarbonate | 60.0 g | C([O-])(O)=O.[Na+]
solvent | sulfuric acid | 20.0 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 25.0 mL | S(O)(O)(=O)=O | H2O4S
solvent | ether | CCOCC | C4H10O
solvent | Water | O | H2O
product | 3-nitropyrazolo[1,5-a]pyridine | 2.49 g, 76% | [N+](=O)([O-])C=1C=NN2C1C=CC=C2 | C7H5N3O2
